data/mechanisms/records/IMS8-EQ8.82b.json
{"mechanism_id": "IMS8-EQ8.82b", "species": [{"species_id": "hydroxy_ester_molecular_ion", "mapped_smiles": "[CH3:8][CH:7]([OH:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[O+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_aldehyde_ester_ion", "mapped_smiles": "[CH:7](=[OH+:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[O:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "R_radical", "mapped_smiles": "[CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hydroxy_ester_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["protonated_aldehyde_ester_ion", "R_radical"]}], "steps": [{"step_id": "step_alpha_loss_of_R", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [7, 9]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [7, 9]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [9]}, "target": {"type": "atom", "atom_maps": [11]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_82b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_of_R", "support_type": "textbook_proposed", "locator": {"page": 198, "equation": "8.82", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Top horizontal arrow of Equation 8.82, labelled 'a, -R.' with '(alternative path)' printed under it: the same drawn molecular ion R-CH(OH)-(CH2)n-C(=O)-O(+.)CH3 loses R. by alpha cleavage at the carbinol carbon instead of first rearranging its hydroxyl H. The drawn product (top right) is the even-electron oxocarbenium HC(=O(+)H)-(CH2)n-C(=O)-OCH3: the charge is now printed on the FORMER HYDROXYL oxygen (which keeps its H) and the ester methoxy oxygen is drawn with an explicit lone-pair double dot, i.e. neutral and closed-shell. Book draws 0 arc(s) for this step (the two fishhooks visible in the left-hand panel belong to the 'r H' arrow that leaves the same panel downwards, Equation 8.82a); ALL FOUR encoded moves are curator-supplied for electron balance. Moves <1,2> are the homolysis of the C(7)-R(8) bond (one electron to the departing methyl radical, one into the forming C(7)=O(9) pi bond); move <3> is the O(9) lone-pair electron that completes that pi bond; move <4> is the electron that must travel from O(9) to the remote O(11) radical site to quench it, because the panel prints the odd electron on O(11) while the product prints the charge on O(9). HONEST CAVEAT: move <4> is a long-range (through-space) one-electron transfer and is not a chemically elementary arrow -- it is forced by transcribing the two DRAWN species literally. The chemically local reading of the same book arrow is that this 'alternative path' starts from the ion population ionized at the HYDROXYL oxygen, in which case the step is the textbook three-fishhook radical-site alpha cleavage (O(9)+. -> pi, plus the two C(7)-C(8) homolysis hooks) and gives exactly the same drawn products; that reading is not encoded here because it would contradict the '+.' that the page prints on O(11). INSTANTIATION (the scheme is generic in R and in the chain length n): R = CH3 and n = 5, i.e. methyl 7-hydroxyoctanoate CH3-CH(OH)-(CH2)5-C(=O)-OCH3 (C9H18O3, M+. m/z 174.1250). n = 5 is the smallest chain that makes the final 'rH, a' step of this same scheme proceed through the favoured six-membered transition state, and it keeps the book's (CH2)n-3 label meaningful ((CH2)2). NO m/z and NO percentage is printed anywhere in Equation 8.82 except 'm/z 55' on the last product; every other mass in these records is the curator's computed monoisotopic value for this instantiation, not a measured number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 174.125, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_R", "species_id": "protonated_aldehyde_ester_ion", "step_id": "step_alpha_loss_of_R", "observed_mz": 159.1016, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
